US09126980B2
N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide
A mixture of (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide and (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(N-(phenylsulfonyl)phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide (0.21 g, 0.272 mmol) in THF (2.1 mL) was treated with 3N HCl (0.62 mL) at RT for 10 min. The reaction mixture was diluted with water (20 mL), the pH was adjusted to about 8 using aq. NaHCO3 solution and extracted with EtOAc (100 mL). The organic layer was washed with water (50 mL), brine (50 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a hygroscopic solid, 0.025 g (14%). Rf=0.38 (5% MeOH in DCM); 1H NMR (400 MHz, DMSO-d6): δ 10.85-10.70 (m, 1H, D2O exchangeable), 7.78-6.60 (m, 12H), 6.50-6.20 (m, 1H), 5.00-3.60 (m, 4H), 3.60-2.40 (m, 8H), 2.25-2.00 (m, 3H), 1.60-0.50 (m, 14H); LC-MS: m/z 658.4 (M+H), HPLC: 95.08% (RT=9.403 min., method I).

reactant | (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)C(=O)N1CC2=CC=CC=C2C[C@H]1CO[Si](C)(C)C(C)(C)C)CCCC | C42H57N5O5SSi
reactant | (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(N-(phenylsulfonyl)phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide | 0.272 mmol, 0.21 g | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)N1CC2=CC=CC=C2C[C@H]1CO[Si](C)(C)C(C)(C)C)CCCC | C48H61N5O7S2Si
reactant | HCl | 3N, 0.62 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-(phenylsulfonamido)phenyl)-5-methyl-1H-pyrazole-3-carboxamide | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)C(=O)N1CC2=CC=CC=C2CC1CO)CCCC | C36H43N5O5S
